US04276295
A mixture consisting of 500 mg of methyl 2-amino-4-ethoxycarbonyl-3,5-dimethylbenzoate and 640 mg of N,N-bis-(o-chlorophenyl)-formamidine was heated to 200° C. with occasional swirling in an open flask. The temperature of the mixture was maintained at around 200° C. for 1.5 hours. After cooling, the mixture was taken up in ethyl acetate, and then, the organic extract was washed with dilute hydrochloric acid, and with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated. The resulting residue was chromatographed on silica gel to give 385 mg (54% of theory) of 3-(2-chlorophenyl)-7-ethoxycarbonyl-6,8-dimethyl-4(3H)-quinazolinone melting at 151°-152° C. (recryst. from ethanol). 1H NMR: δ(CDCl3) 1.49 (t, 3H), 2.46 (s, 3H), 2.62 (s, 3H), 4.48 (q, 2H), 7.30-7.70 (m, 4H), 7.93 (s, 1H), 8.06 (s, 1H).

reactant | methyl 2-amino-4-ethoxycarbonyl-3,5-dimethylbenzoate | 500 mg | NC1=C(C(=O)OC)C=C(C(=C1C)C(=O)OCC)C | C13H17NO4
reactant | N,N-bis-(o-chlorophenyl)-formamidine | 640 mg | ClC1=C(C=CC=C1)N(C=N)C1=C(C=CC=C1)Cl | C13H10Cl2N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-chlorophenyl)-7-ethoxycarbonyl-6,8-dimethyl-4(3H)-quinazolinone | 385 mg, 54% | ClC1=C(C=CC=C1)N1C=NC2=C(C(=C(C=C2C1=O)C)C(=O)OCC)C | C19H17ClN2O3
